US08957083B2
Tert-butyl 1-fluoro-3,7-bis(2-fluoropyridin-3-yl)-1′-methyl-6′-oxo-5′,6′-dihydro-1′H-spiro[chromeno[2,3-c]pyridine-5,4′-pyrimidine]-2′-ylcarbamate was obtained as a side product in the synthesis of Example 12. To a solution of tert-butyl 1-fluoro-3,7-bis(2-fluoropyridin-3-yl)-1′-methyl-6′-oxo-5′,6′-dihydro-1′H-spiro[chromeno[2,3-c]pyridine-5,4′-pyrimidine]-2′-ylcarbamate (32 mg, 0.053 mmol) in DCM (2.5 mL) was added TFA (500 μL, 6.49 mmol). The reaction was allowed to stir at RT overnight. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in MeOH and loaded onto a Varian Bond Elut SCX column. The column was washed with MeOH and subsequently eluted with a 2 M solution of ammonia in MeOH to obtain 22.6 mg 2′-amino-1-fluoro-3,7-bis(2-fluoropyridin-3-yl)-1′-methyl-1′H-spiro[chromeno[2,3-c]pyridine-5,4′-pyrimidin]-6′(5′H)-one as a white solid.

reactant | tert-butyl 1-fluoro-3,7-bis(2-fluoropyridin-3-yl)-1′-methyl-6′-oxo-5′,6′-dihydro-1′H-spiro[chromeno[2,3-c]pyridine-5,4′-pyrimidine]-2′-ylcarbamate | 0.053 mmol, 32 mg | FC1=NC(=CC2=C1OC1=CC=C(C=C1C21N=C(N(C(C1)=O)C)NC(OC(C)(C)C)=O)C=1C(=NC=CC1)F)C=1C(=NC=CC1)F | C31H25F3N6O4
reactant | TFA | 6.49 mmol, 500 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 2′-amino-1-fluoro-3,7-bis(2-fluoropyridin-3-yl)-1′-methyl-1′H-spiro[chromeno[2,3-c]pyridine-5,4′-pyrimidin]-6′(5′H)-one | 22.6 mg | NC=1N(C(CC2(N1)C1=CC(=CC=C1OC=1C(=NC(=CC12)C=1C(=NC=CC1)F)F)C=1C(=NC=CC1)F)=O)C | C26H17F3N6O2
